US08609676B2
To a solution of benzyl 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylate P71 (90 mg, 0.22 mmol) in methanol (5 mL) was added lithium hydroxide monohydrate (46 mg, 1.10 mmol). The reaction mixture was heated in a microwave reactor at 90° C. for 10 minutes. The organic solvent was evaporated under reduced pressure. Ethyl acetate and 1 N hydrochloric acid were added. The organic layer was washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate. The organic solvent was evaporated under reduced pressure. The solid product was dried under reduced pressure to afford the desired 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylic acid P72 (70 mg, 0.22 mmol).

reactant | benzyl 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylate | C(C1=CC=CC=C1)OC=1C(=NC=NC1C1=CC=C(C=C1)C)C(=O)OCC1=CC=CC=C1 | C26H22N2O3
reactant | lithium hydroxide monohydrate | 1.10 mmol, 46 mg | O.[OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
product | 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NC=NC1C1=CC=C(C=C1)C)C(=O)O | C19H16N2O3
